US07259183B2
Preparation of [2-(3,4-dichloro-phenyl)-ethyl]-(2,2-dimethyl-benzo[1,3]dioxol-5-ylmethyl)-amine
The title compound was synthesized in analogy to (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine (described in example S53) using 83 mg of 2,2-dimethyl-benzo[1,3]dioxole-5-carbaldehyde (0.47 mmol) (described in example S119), 89 mg of 2-(3,4-dichloro-phenyl)-ethylamine (0.47 mmol) and 26 mg of sodium borohydride (0.70 mmol). The isolated colorless liquid (133 mg, 81%) was used in the following step without further purification. 1H NMR (CDCl3, 300 MHz): δ 1.66 (s, 6H), 2.76 (m, 2H), 2.86 (m, 2H), 3.68 (s, 2H), 6.66 (s, 1H), 6.68 (d, J=7.4 Hz, 2H), 7.04 (dd, J=8.2 and 2.1 Hz, 1H), 7.29 (d, J=2.1 Hz, 1H), 7.34 (d, J=8.2 Hz, 1H).

reactant | (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine | C1(CC1)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C19H19F4N
reactant | 2,2-dimethyl-benzo[1,3]dioxole-5-carbaldehyde | 0.47 mmol, 83 mg | CC1(OC2=C(O1)C=CC(=C2)C=O)C | C10H10O3
reactant | 2-(3,4-dichloro-phenyl)-ethylamine | 0.47 mmol, 89 mg | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
reactant | sodium borohydride | 0.70 mmol, 26 mg | [BH4-].[Na+]
product | [2-(3,4-dichloro-phenyl)-ethyl]-(2,2-dimethyl-benzo[1,3]dioxol-5-ylmethyl)-amine | ClC=1C=C(C=CC1Cl)CCNCC1=CC2=C(OC(O2)(C)C)C=C1 | C18H19Cl2NO2
